US04347191
In a series of experiments with 2-furanmethanol we have found that the use of bis(dimethylamino)methane gives better yields of 5-(dimethylaminomethyl)-2-furanmethanol than those obtained using dimethylamine and a source of formaldehyde (e.g. aqueous formaldehyde, paraformaldehyde and trioxan). Furthermore the product obtained after distillation was also purer. The yields referred to above were 76-94% and these compare very favourably with the yields reported by R. F. Holdren (12%) (J. Amer. Chem. Soc. 69(464)1947) and Gill and Ing (70%) (J. Chem. Soc. 4728 (1958)).

reactant | 2-furanmethanol | O1C(=CC=C1)CO | C5H6O2
reactant | bis(dimethylamino)methane | CN(C)CN(C)C | C5H14N2
product | 5-(dimethylaminomethyl)-2-furanmethanol | CN(C)CC1=CC=C(O1)CO | C8H13NO2
